* Schematics Netlist *



D_D1         $N_0001 0 D1N4148 
V_V1         $N_0002 0 DC 0V AC 0V
+PWL 0s 0V 2s 2V 
R_R1         $N_0002 $N_0001  100  
