* Schematics Netlist *



D_D1         $N_0001 $N_0002 D1N4148 
R_R1         0 $N_0002  100  
V_V2         $N_0001 0 DC 0V AC 0V
+SIN 0V 10V 50 0 0 0
