* Schematics Netlist *



R_R1         0 $N_0001  1k  
C_C         0 $N_0001  1mF  
V_V2         $N_0002 0 DC 0V AC 0V
+SIN 0V 1V 50 0 0 0
D_D2         $N_0002 $N_0001 MBD101 
